US06423869B1
diphenylmethyl (S)-3-[(2S,3R,4R,55)-2,3,4,6-tetrahydroxy-5-((N,N-dimethyl-L-valyl)-L-leucyl)aminohexanoyl]amino-3-phenylpropionate
To a solution of N,N-dimethyl-L-valine (58 mg) and diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionate (250 mg) in dimethylformamide (4 ml) were added diethyl cyanophosophonate (82 mg) and triethylamine (0.14 ml) and the mixture was stirred at room temperature for 18 hours. After addition of water, the whole was extracted with ethyl acetate and the extract was washed with saturated brine, followed by drying over anhydrous sodium sulfate. Removal of the organic solvent gave a residue, which was recrystallized from ehtyl acetate-hexane to afford the title compound (282 mg).

reactant | N,N-dimethyl-L-valine | 58 mg | CN([C@@H](C(C)C)C(=O)O)C | C7H15NO2
reactant | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionate | 250 mg | O[C@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CC(C)C)=O)O)O | C34H43N3O8
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | diphenylmethyl (S)-3-[(2S,3R,4R,55)-2,3,4,6-tetrahydroxy-5-((N,N-dimethyl-L-valyl)-L-leucyl)aminohexanoyl]amino-3-phenylpropionate | 282 mg | O[C@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](NC([C@@H](N(C)C)C(C)C)=O)CC(C)C)=O)O)O | C41H56N4O9
